US05366957
A mixture of 2-nitro4-trifluoromethylbenzonitrile (8.64 g), thiophenol (4.4 g) and potassium carbonate (6.9 g) in acetonitrile was stirred at room temperature for 1 hour then heated at reflux for 9 hours. Thiophenol (0.3 ml) was added and the mixture was stirred and heated at reflux for 1 hour. Water was added and the mixture was extracted with dichloromethane, dried (MgSO4) and filtered. The filtrate was evaporated to dryness and the residue was recrystallized from n-hexane to give 2-(phenylsulphenyl)-4-trifluoromethylbenzonitrile (9.5 g) as a white solid, m.p. 51° C.

reactant | 2-nitro4-trifluoromethylbenzonitrile | 8.64 g | [N+](=O)([O-])C1=C(C#N)C=CC(=C1)C(F)(F)F | C8H3F3N2O2
reactant | thiophenol | 4.4 g | C1(=CC=CC=C1)S | C6H6S
reactant | potassium carbonate | 6.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | Thiophenol | 0.3 ml | C1(=CC=CC=C1)S | C6H6S
reactant | Water | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-(phenylsulphenyl)-4-trifluoromethylbenzonitrile | 9.5 g | C1(=CC=CC=C1)SC1=C(C#N)C=CC(=C1)C(F)(F)F | C14H8F3NS
